US09233985B2
Step 4: (1S,2S,4S)-1-acetamido-4-amino-N-tert-butyl-2-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl)cyclopentanecarboxamide
While under nitrogen, a stirred solution of benzyl (1S,3S,4S)-3-acetamido-3-(tert-butylcarbamoyl)-4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl)cyclopentylcarbamate (0.544 g, 1.00 mmol) in 4:1 ethyl acetate/methanol (20 mL) was treated with 20% Pd(OH)2/C (0.30 g), purged with hydrogen, and stirred under a balloon for 18 h. The mixture was purged with nitrogen and carefully filtered through a pad of Celite® (without letting filter pad dry) and the filtrate concentrated in vacuo to afford 0.409 g (100%) of the subject compound as a white solid. NMR (CDCl3): δ 6.72 (br s, 1 H), 6.67 (br s, 1 H), 3.63 (m, 1 H), 2.80 (m, 1 H), 2.57 (m, 1 H), 1.75-2.00 (m, 4 H), 1.93 (s, 3 H), 1.00-1.50 (m, 3 H), 1.25 (s, 9 H), 1.17 (s, 12 H), 0.60-0.75 (m, 2 H). MS (M+1): 410.5.

reactant | benzyl (1S,3S,4S)-3-acetamido-3-(tert-butylcarbamoyl)-4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl)cyclopentylcarbamate | 1.00 mmol, 0.544 g | C(C)(=O)N[C@]1(C[C@H](C[C@@H]1CCCB1OC(C(O1)(C)C)(C)C)NC(OCC1=CC=CC=C1)=O)C(NC(C)(C)C)=O | C29H46BN3O6
catalyst | Pd(OH)2/C | 0.30 g | [OH-].[OH-].[Pd+2]
solvent | ethyl acetate methanol | 20 mL | C(C)(=O)OCC.CO
product | (1S,2S,4S)-1-acetamido-4-amino-N-tert-butyl-2-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl)cyclopentanecarboxamide | 0.409 g, 100% | C(C)(=O)N[C@@]1([C@H](C[C@@H](C1)N)CCCB1OC(C(O1)(C)C)(C)C)C(=O)NC(C)(C)C | C21H40BN3O4
